Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p mechanical fall
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
This is an ___ s/p fall. Mechanical fall in the garden. Fell on 
hard cement.
Immediately had bleeding from the left ear hematocrit denies. 
Denies loss
of consciousness. At the outside hospital, found to have 
subarachnoid
hemorrhage, subdural hemorrhage and a left petrous bone 
fracture. Patient
denies any neck pain, torso pain, extremity pain.
 
Past Medical History:
Osteoporosis  
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Admission Physical Exam:

HEENT: EOMI, bilateral
periorbital ecchymoses, no proptosis or ptosis no
ophthalmoplegia, midface stable dentition intact,
hemotympanum and dried blood in L EAC
Neck: Supple
Resp: CTAB no CW TTP
CV: Normal heart sounds
Abd: Soft, nondistended
Flank: No CVAT b/l
___: Intact distal pulses, compartments soft, no cyanosis
pelvis stable hips nontender, nontender through bilateral
femurs tib-fib and ankles
Skin: Warm and dry
Neuro: Speech fluent, CN grossly intact, moving extremities
spontaneously with normal ROM and no limitation, ___ Ue and
___ strength, sensation intact
Heme: No petechiae

Discharge Physical Exam:
VS: temp 97.6, BP 161 / 84, HR 69, RR 18, SpO2 97Ra 
Gen: no acute distress 
CV: RRR
Resp: breaths unlabored, breathing comfortably on room air
Abdomen: soft, nondistended, nontender, no rebound or guarding [
Wound: incisions clean, dry, intact
Ext: WWP, no peripheral edema 
 
Pertinent Results:
IMAGING:

___: CXR:
No acute cardiopulmonary process.  No definite acute fracture or 
dislocation

___: Gallbladder US:
1. No finding to explain the elevated LFTs. 
2. 11 mm left hepatic lobe lesion is incompletely characterized 
but likely 
represents a complex cyst. 
3. Simple 5 cm right renal cyst. 
  
RECOMMENDATION(S):  CT or MRI liver mass protocol to further 
characterize 
indeterminate 11 mm hepatic lesion if clinically indicated. 

___: CT Orbits:
  
1. Fracture left temporal bone.  Fluid left mastoid, middle ear, 
EAC.  Suggest beta 2 transferrin testing of EAC fluid to exclude 
CSF leak. 
2. Subarachnoid hemorrhage, similar. 
3. Extracranial soft tissue swelling. 
4. Fractures superior orbital walls. 

___: CT Sinus/Max/Face:
1. Bifrontal subarachnoid hemorrhage, similar. 
2. Fractures bilateral superior orbital walls, trace extraconal 
hemorrhage 
bilaterally.  No proptosis. 
3. Fracture temporal bone, refer to temporal bone CT. 
4. Chronic nasal bone fracture. 
  
___: Carotid Series:
Right ICA <40%  stenosis. 
Left ICA <40%  stenosis. 

___: ECHO:
FINDINGS:
LEFT ATRIUM (LA)/PULMONARY VEINS: Normal LA volume index.
RIGHT ATRIUM (RA)/INTERATRIAL SEPTUM/INFERIOR VENA CAVA (IVC): 
Normal RA size. Normal
IVC diameter with normal inspiratory collapse==>RA pressure ___ 
mmHg.
LEFT VENTRICLE (LV): Normal wall thicknesses. Normal cavity 
size. Normal regional/global systolic function.
No resting outflow tract gradient.
RIGHT VENTRICLE (RV): Normal cavity size. Normal free wall 
motion. Normal tricuspid annular plane
systolic excursion (TAPSE).
AORTA: Normal sinus diameter for gender. Normal ascending 
diameter for gender. Normal arch diameter.
AORTIC VALVE (AV): Mildly thickend (3) leaflets. No stenosis. 
Trace regurgitation.
MITRAL VALVE (MV): Mildly thickened leaflets. No systolic 
prolapse. Mild MAC. Mild chordal thickening. Mild
[1+] regurgitation.
PULMONIC VALVE (PV): Normal leaflets. Physiologic regurgitation.
TRICUSPID VALVE (TV): Normal leaflets. Mild [1+] regurgitation. 
Mild pulmonary artery systolic
hypertension.
PERICARDIUM: No effusion.

LABS:
___ 04:00PM BLOOD WBC-5.6 RBC-3.55* Hgb-12.6* Hct-38.6* 
MCV-109* MCH-35.5* MCHC-32.6 RDW-11.9 RDWSD-47.8* Plt ___
___ 04:00PM BLOOD Glucose-110* UreaN-15 Creat-0.9 Na-137 
K-4.6 Cl-101 HCO3-26 AnGap-10
___ 07:27AM BLOOD ALT-64* AST-74* AlkPhos-51 TotBili-1.2
___ 04:00PM BLOOD Calcium-9.4 Phos-3.6 Mg-1.9

___ 11:19PM   LACTATE-1.1
___ 11:08PM   GLUCOSE-130* UREA N-22* CREAT-1.0 SODIUM-139 
POTASSIUM-4.5 CHLORIDE-102 TOTAL CO2-26 ANION GAP-11
___ 11:08PM   ALT(SGPT)-67* AST(SGOT)-118* ALK PHOS-49 TOT 
BILI-1.7* DIR BILI-0.3 INDIR BIL-1.4
___ 11:08PM   ALBUMIN-4.4
___ 11:08PM   ASA-NEG ETHANOL-NEG ACETMNPHN-11 
tricyclic-NEG
___ 11:08PM   WBC-8.4 RBC-3.67* HGB-13.3* HCT-39.6* 
MCV-108* MCH-36.2* MCHC-33.6 RDW-11.9 RDWSD-46.8*
___ 11:08PM   NEUTS-66.2 ___ MONOS-9.6 EOS-0.1* 
BASOS-0.2 IM ___ AbsNeut-5.56 AbsLymp-1.96 AbsMono-0.81* 
AbsEos-0.01* AbsBaso-0.02
___ 11:08PM   PLT COUNT-128*
___ 11:08PM   ___ PTT-25.0 ___ s/p fall in the garden due to dizziness onto cement with 
bleeding from the left ear.  He presented to an OSH where he was 
found to have a subarachnoid
hemorrhage, subdural hemorrhage and a left petrous bone 
fracture. The patient reported dizziness. He was transferred to 
___ for further management. 

The patient was seen by Neurosurgery who recommended: no repeat 
imaging unless change in clinic exam, SBP<160, and enrolling in 
TBI pathway/follow-up in ___ clinic as needed. 

ENT was consulted for the left temporal bone fracture and 
recommended CSF leak precautions x 1 week (HOB elevation, stool 
softeners, sneeze with mouth open, no nose blowing).  They 
recommended floxin drops (cipro drops while inpatient): 4gtt BID 
x 10 days to AS, keeping ear dry until follow up (Cotton ball in 
ear when washing
hair, and calling audiology to schedule audiogram on a 
non-urgent, follow-up
basis.

Given the patient's dizziness, a syncopal workup was conducted, 
including a carotid series, ECHO and EKG which were all normal.  
Physical Therapy worked with the patient, however the patient 
was symptomatically orthostatic. Neurology was consulted and 
assessed his orthostasis as chronic and his baseline with note 
that the patient has safety measures in place and recommended no 
further work-up, no additional medications, and no follow up 
with Neurology needed.

On ___, the patient felt that he no longer needed to be 
hospitalized and requested to leave against medical advice 
(AMA). With the assistance of an interpreter via phone, the 
risks of leaving AMA were discussed with the patient and the 
family.  Both the patient and the family understood and 
verbalized that the patient would be leaving AMA. Despite our 
medical concerns, the patient left AMA on ___.  Since the 
patient left AMA, the consulting services and primary team were 
not able to fully assess the patient and final recommendations 
were not given because the patient insisted on leaving despite 
medical advice to stay and complete his workup and treatment 
plan.

 
Medications on Admission:
Vitamin D supplements
 
Discharge Medications:
none
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Subarachnoid hemorrhage
Subdural hemorrhage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital after a fall and you sustained 
internal head bleeding which was stable, as well as a left 
temporal bone fracture (an area of the skull which overlays the 
internal ear structure).  The Neurosurgery service evaluated 
your internal head injuries and no repeat imaging was needed.  
They recommended you remain on sinus precautions (see below) for 
10 days.  The Otolaryngology service evaluated your temporal 
bone fracture and recommended ear drops to prevent infection and 
an outpatient audiology exam.

You had a cardiac workup done to determine if this is why you 
felt dizzy, however this workup was negative for any acute 
findings. Neurology evaluated you and recommended compression 
stockings, reassessment of orthostatics, fall precautions (sit 
on the edge of the bed first, wait until stop feeling dizzy 
before standing)and to encourage fluid intake, at least 2L per 
day. If he has ongoing dizziness, see primary care provider 
(patient currently visiting the US, consider finding PCP ___.  
Physical therapy evaluated the patient and assessed that the 
patient is at high risk for deconditioning and recommended that 
encouraging frequent mobility and to maximize independence in 
ADLs, Out of bed to chair 3x daily, and if hemodynamics improve 
recommend ambulation with one assist. 

You left against medical advice.  The consulting services and 
primary team were not able to fully assess the patient and final 
recommendations were not given because the patient insisted on 
leaving despite medical advice to stay and complete his workup 
and treatment plan.  

 
Followup Instructions:
___